US05318966
1.00 g (0.003 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-morpholinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride dissolved in 50 ml of water was neutralized with 5.6 ml of 1N sodium hydroxide solution (5.6 mmol, 2.1 eq.). The mixture was extracted with ether, the organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered and the filtrate was concentrated. The oily residue was dissolved in 50 ml of toluene. 0.30 g (0.41 ml, 0.003 mol) of triethylamine, 3.25 mg (266 μmol, 0.1 eq.) of 4-dimethylaminopyridine and 0.27 ml (0.003 mol) of dimethylcarbamoyl chloride were added thereto in succession. The mixture was boiled under reflux for 2 hours, poured into water and extracted with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered, the filtrate was concentrated and the residue was chromatographed on 220 g of silica gel with methylene chloride/methanol (9:1). The resulting oil (0.8 g) was dissolved in 10 ml of ethanol. 0.92 ml (0.0045 mol) of 4.89N ethanolic HCl solution was added dropwise thereto and precipitation was effected with ethyl acetate. The crystals were filtered off, dissolved in hot ethanol and treated with active charcoal. After filtration, concentration and recrystallization from ethanol/ethyl acetate there was obtained 0.57 g (48%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-morpholinoethyl)-1H-benzo[e]indol-6-yl dimethylcarbamate dihydrochloride as white crystals with m.p. 170°-220° (dec.).

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-morpholinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride | 0.003 mol, 1.00 g | Cl.Cl.O1CCN(CC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O
reactant | sodium hydroxide | 5.6 mmol, 1N, 5.6 ml, 2.1 eq. | [OH-].[Na+]
reactant | triethylamine | 0.003 mol, 0.41 ml, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.003 mol, 0.27 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | HCl | 0.0045 mol, 4.89N, 0.92 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 266 μmol, 3.25 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-morpholinoethyl)-1H-benzo[e]indol-6-yl dimethylcarbamate dihydrochloride | 0.57 g, 48% | Cl.Cl.CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCN2CCOCC2)=O)C | InChI=1S/C21H31N3O3.2ClH/c1-22(2)21(25)27-20-5-3-4-16-17-8-9-24(19(17)7-6-18(16)20)11-10-23-12-14-26-15-13-23;;/h3-5,17,19H,6-15H2,1-2H3;2*1H/t17-,19+;;/m1../s1
